### PR TITLE
Refactor some completeness cases

### PR DESCRIPTION
**Pull request by Ailrun**

### CODE REVIEW

File: theories/Core/Completeness/SubtypingCases.v [hunk 1]
```diff
@@ -3,169 +3,146 @@ From Mcltt Require Import Base LibTactics.
...
 Qed.
 
-
 Lemma sub_typ_subtyp_trans : forall Γ M M' M'',
     {{ Γ ⊨ M ⊆ M' }} ->
     {{ Γ ⊨ M' ⊆ M'' }} ->
     {{ Γ ⊨ M ⊆ M'' }}.
 Proof.
-  intros * [R [HR [i H]]] [R' [HR' [j H']]].
+  pose proof (@relation_equivalence_pointwise domain).
```
Comment (HuStmpHrrr) [inline theories/Core/Completeness/SubtypingCases.v:32]: maybe you can show me what this has changed. I never needed things like this for the rewrite hints I added. I suppose there is a fix for it.

Comment (Ailrun) [reply theories/Core/Completeness/SubtypingCases.v:32]: Sure, I will show you today.

**Comment by Ailrun** [comment]
Continued in #137.
